US04923857
To a solution of 1-allyloxycarbonyl-2-methoxycarbonylpiperidine (10 g) in toluene (60 ml) was added dropwise diisobutylaluminum hydride (1M solution in toluene) (57 ml) at -70° C. After stirring at -70° C. for 30 minutes, the reaction mixture was poured into a mixture of concentrated hydrochloric acid (25 ml) and water (100 ml) at 5° C. After stirring at 5° C. for 15 minutes, the organic layer was separated, washed in turn with 1N hydrochloric acid (20 ml), 25% potassium sodium tartrate (20 ml) and brine (20 ml), dried over magncsium sulfate and filtered. The filtrate was concentrated to a volume of 40 ml. To this solution was added 3-triphenylphosphoranylidenebutan-2-one (16.1 g) and the mixture was stirred at 70° C. for 5 hours. After cooling to ambient temperature, the resulting precipitate was removed by filtration. The filtrate was evaporated to give a residue, which was taken up into ethyl acetate. The resulting precipitate was removed by filtration and the filtrate was evaporated in vacuo. The residue was chromatographed on silica gel (300 ml) eluting with a mixture of n-hexane and ethyl acetate (10:1-5:1 V/V) to give 1-allyloxycarbonyl-2-(2-methyl-3-oxo-1-butenyl)piperidine (10.9 g).

reactant | 1-allyloxycarbonyl-2-methoxycarbonylpiperidine | 10 g | C(C=C)OC(=O)N1C(CCCC1)C(=O)OC | C11H17NO4
reactant | diisobutylaluminum hydride | 1M, 57 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | hydrochloric acid | 25 ml | Cl | ClH
reactant | water | 100 ml | O | H2O
reactant | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-allyloxycarbonyl-2-(2-methyl-3-oxo-1-butenyl)piperidine | 10.9 g | C(C=C)OC(=O)N1C(CCCC1)C=C(C(C)=O)C | C14H21NO3
